US05910504
4-(N-Benzylamino)-3-fluoronitrobenzene
A solution of 23.9 g (16.9 mL, 0.15 mol) of 3,4-difluoronitrobenzene and 29.1 g (39.2 mL, 0.23 mol) of N, N-diisopropylethylamine in 285 mL acetonitrile was treated with 19.3 g (19.7 mL, 0.18 mol) of benzylamine, followed by warming at reflux for 5 h. The mixture was concentrated in vacuo and the residue was dissolved in 200 mL ethyl acetate, followed by extraction with water (3×50 mL). Drying (Na2SO4) and concentration in vacuo afforded a yellow solid, which was recrystallized from hot ethyl acetate-hexane to afford 32.25 g (87%) of the title compound as yellow-orange needles, mp 97.5-99° C.

reactant | 3,4-difluoronitrobenzene | 0.15 mol, 16.9 mL, 23.9 g | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | N, N-diisopropylethylamine | 0.23 mol, 39.2 mL, 29.1 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzylamine | 0.18 mol, 19.7 mL, 19.3 g | C(C1=CC=CC=C1)N | C7H9N
solvent | acetonitrile | 285 mL | C(C)#N | C2H3N
product | 4-(N-Benzylamino)-3-fluoronitrobenzene | 32.25 g, 87% | C(C1=CC=CC=C1)NC1=C(C=C(C=C1)[N+](=O)[O-])F | C13H11FN2O2
